US07371751B2
2-(3,4-Dimethoxy-phenylamino)-thiazole-5-carboxylic acid
A mixture of 3.9 g (12.78 mmol) 2-(3,4-Dimethoxy-phenylamino)-thiazole-5-carboxylic acid ethyl ester and 12.78 ml 5M KOH in 23.5 ml THF was heated to 55° C. for 22 h. After acidification with HCl aq. The mixture was extracted with ethyl acetate and the combined organic layers washed with water, dried with MgSO4 and evaporated to dryness. Additionally precipitaed material from the aqueous phase was filtered off and dried. 2.39 g (67%) of the title compound was obtained as beige crystals. MS (m/e): 279.0 (M−H, 100%)

reactant | 2-(3,4-Dimethoxy-phenylamino)-thiazole-5-carboxylic acid ethyl ester | 12.78 mmol, 3.9 g | C(C)OC(=O)C1=CN=C(S1)NC1=CC(=C(C=C1)OC)OC | C14H16N2O4S
reactant | KOH | 5M, 12.78 ml | [OH-].[K+]
solvent | THF | 23.5 ml | C1CCOC1 | C4H8O
product | 2-(3,4-Dimethoxy-phenylamino)-thiazole-5-carboxylic acid | 2.39 g, 67% | COC=1C=C(C=CC1OC)NC=1SC(=CN1)C(=O)O | C12H12N2O4S
